US08372865B2
To a solution of quinolin-6-ylamine (503 mg, 3.49 mmol) in dichloromethane (17 mL) and methanol (8.6 mL) was added tetra-n-butylammonium tribromide (1.68 g, 3.49 mmol). The mixture was stirred at 25° C. for 90 minutes, and then 10 5 mL of aqueous sodium thiosulfate was added. The mixture was extracted with dichloromethane, and the combined extracts were washed with water, dried (Na2SO4), filtered and concentrated to dryness under reduced pressure. Purification by flash column (hexanes/ethylacetate gradient) gave 5-bromo-quinolin-6-ylamine (246 mg, 32%).

reactant | quinolin-6-ylamine | 3.49 mmol, 503 mg | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
reactant | tetra-n-butylammonium tribromide | 3.49 mmol, 1.68 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | methanol | 8.6 mL | CO | CH4O
product | 5-bromo-quinolin-6-ylamine | 246 mg, 32% | BrC1=C2C=CC=NC2=CC=C1N | C9H7BrN2
